US04263293
(±)-2-[(Acetylthio)methyl]-4-methyl-N-[2-(1-piperidinyl)ethyl]pentanamide
A solution of (±)-2-[(acetylthio)methyl]-4-methylpentanoic acid in 40 ml of THF is cooled to 5° C., followed by the dropwise addition of triethylamine (1.0 g) in 5 ml of THF. This solution is cooled to -5° C. and ethyl chloroformate in 4 ml of THF is added dropwise at -5° to 0° C. It is stirred for 30 minutes and N-(2-aminoethyl)piperidine in 30 ml of THF is added dropwise. The reaction mixture is stirred at 20° C. for 4 hours and stored at 0° C. for about 16 hours. Triethylamine hydrochloride is filtered off and the filtrate is concentrated in vacuo. The residue is dissolved in ether and washed with aqueous NaHCO3. Ether is dried with MgSO4, filtered and concentrated in vacuo to yield 2.1 g of crude product. This crude is absorbed on a 20-g pad of alumina act II and washed through with ether to yield 1.4 g of product which crystallizes from pentane, melting point 47°-50° C.

reactant | (±)-2-[(acetylthio)methyl]-4-methylpentanoic acid | C(C)(=O)SCC(C(=O)O)CC(C)C | C9H16O3S
reactant | triethylamine | 1.0 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | N-(2-aminoethyl)piperidine | NCCN1CCCCC1 | C7H16N2
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | (±)-2-[(Acetylthio)methyl]-4-methyl-N-[2-(1-piperidinyl)ethyl]pentanamide | 1.4 g | C(C)(=O)SCC(C(=O)NCCN1CCCCC1)CC(C)C | C16H30N2O2S
